US07772253B2
5-Methyl-N-(piperidin-4-yl)-nicotinamide
N-(1-Benzyl-piperidin-4-yl)-5-methyl-nicotinamide (1.3 g, 4 mmol), Pd(OH)2/C (0.1 g) and cyclohexene (2 ml) were heated at reflux in EtOH (15 mL) for 2 h, after which time the reaction was filtered hot through a pad of Hyflo. The filtrate was concentrated to afford the title compound as a white powder (0.9 g, 98%).

reactant | N-(1-Benzyl-piperidin-4-yl)-5-methyl-nicotinamide | 4 mmol, 1.3 g | C(C1=CC=CC=C1)N1CCC(CC1)NC(C1=CN=CC(=C1)C)=O | C19H23N3O
reactant | cyclohexene | 2 ml | C1=CCCCC1 | C6H10
solvent | EtOH | 15 mL | CCO | C2H6O
catalyst | Pd(OH)2/C | 0.1 g | [OH-].[OH-].[Pd+2]
product | 5-Methyl-N-(piperidin-4-yl)-nicotinamide | 0.9 g, 98% | CC=1C=NC=C(C(=O)NC2CCNCC2)C1 | C12H17N3O
